US06586616B1
Benzylalcohol (216 g, 2 eq.) and conc. sulfuric acid (5 g) were added to (R)-4-cyano-3-hydroxybutyric acid (1.0 mol) dissolved in acetonitrile (500 ml) and refluxed for 5 hours. The reaction mixture was neutralized with sodium carbonate and filtered. The filtrate was concentrated in vacuo to afford (R)-4-cyano-3-hydroxybutyric acid benzyl ester (157 g, 92%) which was purified by column chromatography on a silica gel.

reactant | Benzylalcohol | 216 g, 2 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | (R)-4-cyano-3-hydroxybutyric acid | 1.0 mol | C(#N)C[C@H](CC(=O)O)O | C5H7NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
catalyst | sulfuric acid | 5 g | S(O)(O)(=O)=O | H2O4S
product | (R)-4-cyano-3-hydroxybutyric acid benzyl ester | 157 g, 92% | C(C1=CC=CC=C1)OC(C[C@@H](CC#N)O)=O | C12H13NO3
